US06093714
Ethyl 1-(4-methoxybenzyl)-4-(2-nitro-4-phenylbutoxybenzoylaminobenzoyl)-1,2,3-triazole-5-carboxylate (b-1) (529.5mg, 0.78 mmol) prepared in the step (b) was dissolved in ethanol (8 ml) and ethyl acetate (2 ml), 10% palladium on carbon (53 mg) was added to the solution, and the mixture was stirred at room temperature under a hydrogen atmosphere for two days. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The resultant precipitate was collected by filtration to give ethyl 4-(2-amino-4-phenylbutoxybenzoylaminobenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-5-carboxylate (c-1) as a yellow oil (484.4 mg, 96%).

reactant | Ethyl 1-(4-methoxybenzyl)-4-(2-nitro-4-phenylbutoxybenzoylaminobenzoyl)-1,2,3-triazole-5-carboxylate | 0.78 mmol, 529.5mg | COC1=CC=C(CN2N=NC(=C2C(=O)OCC)C(C2=C(C(=C(C=C2)OCCCCC2=CC=CC=C2)NC(C2=CC=CC=C2)=O)[N+](=O)[O-])=O)C=C1 | C37H35N5O8
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 53 mg | [Pd] | Pd
product | ethyl 4-(2-amino-4-phenylbutoxybenzoylaminobenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-5-carboxylate | 484.4 mg, 96% | NC1=C(C(=O)C=2N=NN(C2C(=O)OCC)CC2=CC=C(C=C2)OC)C=CC(=C1NC(C1=CC=CC=C1)=O)OCCCCC1=CC=CC=C1 | C37H37N5O6
